US07034030B2
e) 1-Amino-2-methylpyridinium 2,4,6-trimethylbenzenesulfonate.
To cold (0° C.) trifluoroacetic acid (50 mL) was added N-tert-butoxycarbonyl-O-(mesitylsulfonyl)hydroxylamine (16.09 g, 51 mmol) in portions over about 15 minutes. The solution was then stirred for about 15 minutes at room temperature. The solution was poured into ice water (250 mL) and the resulting white precipitate was collected by filtration and air-dried for 5 minutes. The solid was dissolved in chloroform (100 mL) and this solution was dried over anhydrous magnesium sulfate. The magnesium sulfate was removed by filtration and the filtrate was added to a solution of 2-picoline (5.0 g, 54 mmol) in chloroform (5 mL). The mixture was stirred for 45 min and then filtered. To the filtrate was added diethyl ether (225 ml) and the product allowed to precipitate. The solid was collected by filtration, washed with diethyl ether (50 mL) and dried to give the title compound as a white solid, 12.9 g (82%). 1H NMR (CDCl3) δ 9.45 (d, 1H), 8.4 (br s, 2H), 7.84 (t, 1H), 7.55 (t, 1H), 7.50 (d, 1H), 6.80 (s, 2H), 2.81 (s, 3H), 2.62 (s, 6H), 2.25 (s, 3H). MS (+ve electrospray) 109 (100), (M+).

reactant | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-tert-butoxycarbonyl-O-(mesitylsulfonyl)hydroxylamine | 51 mmol, 16.09 g | C(C)(C)(C)OC(=O)NOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C14H21NO5S
reactant | 2-picoline | 54 mmol, 5.0 g | N1=C(C=CC=C1)C | C6H7N
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Amino-2-methylpyridinium 2,4,6-trimethylbenzenesulfonate | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C=CC=C1)C | InChI=1S/C9H12O3S.C6H9N2/c1-6-4-7(2)9(8(3)5-6)13(10,11)12;1-6-4-2-3-5-8(6)7/h4-5H,1-3H3,(H,10,11,12);2-5H,7H2,1H3/q;+1/p-1
